US07772245B2
A mixture of methyl 3,4-dihydro[1]benzofuro[2,3-c]pyridine-2(1H)-carboxylate (0.150 g, 0.6493 mmol) and concentrated HCl (10 ml) was refluxed for 18 h. The reaction mixture was cooled to 0° C., quenched with saturated aqueous NaHCO3 (100 mL), and extracted with ethyl acetate (2×50 mL), the organic layer was dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to furnish 1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine (0.1 g, 46%). 1H NMR (200 MHz, CDCl3): δ 3.15 (m, 4H), 4.40 (m, 2H), 7.35 (m, 2H), 7.51 (m, 2H). MS: 160 (M+).

reactant | methyl 3,4-dihydro[1]benzofuro[2,3-c]pyridine-2(1H)-carboxylate | 0.6493 mmol, 0.150 g | C1N(CCC2=C1OC1=C2C=CC=C1)C(=O)OC | C13H13NO3
solvent | HCl | 10 ml | Cl | ClH
product | 1,2,3,4-tetrahydro[1]benzofuro[2,3-c]pyridine | 0.1 g, 46% | C1NCCC2=C1OC1=C2C=CC=C1 | C11H11NO
